US05750531
Step 1: 6-Methyl-2-chloro-4-hydroxypyrimidine
To a mixture solution of 6-methyl-2,4-dichloropyrimidine (25 g, 0.153 mol) in tetrahydrofurane(170 ml) was added 1N-NaOH solution(420 ml) and stirred for 48 hours at room temperature. The reaction mixture was washed with ethyl ether to remove impurities, acidified with hydrochloric acid, and then extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure to give 13.5 g of titled compound as yellow solid form. (Yield: 66.7%)

reactant | 6-methyl-2,4-dichloropyrimidine | 0.153 mol, 25 g | CC1=CC(=NC(=N1)Cl)Cl | C5H4Cl2N2
reactant | NaOH | 420 ml | [OH-].[Na+]
solvent | tetrahydrofurane | 170 ml | O1CCCC1 | C4H8O
product | 6-Methyl-2-chloro-4-hydroxypyrimidine | 13.5 g, Yield: 66.7% | CC1=CC(=NC(=N1)Cl)O | C5H5ClN2O
